US04587236
Under the conditions of Example 2c, 1.0 g of 17-butyryloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted with butyric anhydride and worked up analogously. The crude product is recrystallized from acetone/hexane, thus isolating 820 mg of 17,21-dibutyryloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione.

reactant | 17-butyryloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | C(CCC)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H36O6
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 17,21-dibutyryloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 820 mg | C(CCC)(=O)O[C@]1(C(COC(CCC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C30H42O7
